US08541455B2
To a suspension of 146 mg (0.8 mmol) of anhydrous CuI (I) in 5 mL of anhydrous ether are added, at 0° C., under a stream of argon, 3.6 mL (10.9 mmol) of a 3M solution of phenyl magnesium bromide in Et2O. After stirring for 30 minutes at 0° C., 1 g (6.4 mmol) of methyl 2-acetyl-3-methylbut-2-enoate is added in a single portion. The mixture is allowed to warm to room temperature and stirring is continued for 18 hours. The reaction mixture is then treated with 100 mL of saturated NH4Cl solution, the phases are separated by settling, and the organic phase is again treated with 100 mL of saturated NH4Cl solution. The aqueous phases are extracted with 4×100 mL of DCM. The organic phases are combined, dried over anhydrous Na2SO4 and concentrated under reduced pressure. After purification by chromatography on silica gel, eluting with a 95/5 cyclohexane/EtOAc mixture, 1 g of methyl 2-acetyl-3-methyl-3-phenylbutanoate is obtained in the form of a colourless oil.

reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | methyl 2-acetyl-3-methylbut-2-enoate | 6.4 mmol, 1 g | C(C)(=O)C(C(=O)OC)=C(C)C | C8H12O3
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | ether | 5 mL | CCOCC | C4H10O
catalyst | CuI | 0.8 mmol, 146 mg | [Cu]I
product | methyl 2-acetyl-3-methyl-3-phenylbutanoate | 1 g, Yield=67% | C(C)(=O)C(C(=O)OC)C(C)(C1=CC=CC=C1)C | C14H18O3
